US09024019B2
Step F: tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a stirred solution of tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(hydroxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate (3.01 g, 7.78 mmol) in CHCl3 (47 mL) was added manganese(IV) oxide (7.96 g, 77.8 mmol) and the obtained mixture was heated under reflux for 20 h. The obtained reaction mixture was filtered over Celite and followed by rinsing with 20% MeOH/CHCl3. Removal of the solvent in vacuo furnished the desired product as a sticky oil which was used directly in the next step without further purification. 1H NMR (400 MHz, CDCl3) 1.43 (s, 9H), 1.52 (s, 9H), 2.48 (s, 3H), 4.26 (dAB, 1H), 4.34 (dAB, 1H), 9.58 (s, 1H).

reactant | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(hydroxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | 7.78 mmol, 3.01 g | C(C)(=O)N(N1C(N(N=C(C1)CO)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H26N4O7
solvent | CHCl3 | 47 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 77.8 mmol, 7.96 g | [O-2].[Mn+4].[O-2]
product | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-formyl-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)N(N1C(N(N=C(C1)C=O)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H24N4O7
